US08859768B2
A solution of N-{4-[5-bromo-4-(1H-1,2,4-triazol-3-yl)-2-furyl]-5-methylpyridin-2-yl}acetamide (6.0 g, 16.6 mmol) in dry DMF (150 mL) was allowed to stir at 0° C. To this cooled solution was added DIEA (6.5 g, 5.0 mmol) portionwise over 20 min under an atmosphere of nitrogen. The reaction mixture was allowed to stir for 10 min at 0° C. and then SEM-Cl (5.5 g, 33.2 mmol) in dry DMF was add dropwise over 10 min. The reaction mixture was allowed to stir at 0° C. for 10 min and then allowed to warm to rt and allowed to stir for 3 h. The reaction mixture was diluted with water and extracted with EtOAc. The organic solutions were combined, washed with water and brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give N-{4-[5-bromo-4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-2-furyl]-5-methylpyridin-2-yl}acetamide (1.1 g, 21%) plus an additional SEM regioisomer (1.7 g, 25%).

reactant | N-{4-[5-bromo-4-(1H-1,2,4-triazol-3-yl)-2-furyl]-5-methylpyridin-2-yl}acetamide | 16.6 mmol, 6.0 g | BrC1=C(C=C(O1)C1=CC(=NC=C1C)NC(C)=O)C1=NNC=N1 | C14H12BrN5O2
reactant | DIEA | 5.0 mmol, 6.5 g | CCN(C(C)C)C(C)C | C8H19N
reactant | SEM-Cl | 33.2 mmol, 5.5 g | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-{4-[5-bromo-4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-2-furyl]-5-methylpyridin-2-yl}acetamide | 1.1 g, 21% | BrC1=C(C=C(O1)C1=CC(=NC=C1C)NC(C)=O)C1=NN(C=N1)COCC[Si](C)(C)C | C20H26BrN5O3Si
